US07851626B2
rac-4-{4-[(4S*,5R*)-2-(4-tert-Butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-butyronitrile
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 4-piperazin-1-yl-butyronitrile (Aldrich) to give the title compound. HR-MS (ES, m/z) calculated for C39H48N5O2Cl2 [(M+H)+] 688.3180, observed 688.3186.

reactant | rac-(4S*,5R*)-2-(4-tert-butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)C=1N(C(C(N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)Cl)OC(C)C | C31H33Cl3N2O2
reactant | 4-piperazin-1-yl-butyronitrile | N1(CCNCC1)CCCC#N | C8H15N3
product | rac-4-{4-[(4S*,5R*)-2-(4-tert-Butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-butyronitrile | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@]([C@](N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCCC#N)OC(C)C | C39H47Cl2N5O2
